US05374641
In a mixed solvent of 4 ml of ethanol, 4 ml of tetrahydrofuran, and 4 ml of water was dissolved 150 mg of ethyl 4-[3-formamido-3-(3-pyridyl)propyl]phenoxyacetate, followed by addition of 0.15 ml of conc. sulfuric acid, which was then heated to 60° C. and stirred for 12 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, followed by addition of methanol-methylene chloride (5:95 v/v) and water. While stirring, the property of the solution was adjusted to weak alkalinity with gradual addition of saturated aqueous sodium hydrogencarbonate solution. After separation of the organic phase, which was then extracted with methanol-methylene chloride (5:95 v/v) from the aqueous phase and washed in saturated aqueous sodium chloride followed by drying over magnesium sulfate and distillation of the solvent, 50 mg of ethyl 4-[3-amino-3-(3-pyridyl)propyl]phenoxyacetate was obtained.

reactant | ethyl 4-[3-formamido-3-(3-pyridyl)propyl]phenoxyacetate | 150 mg | C(=O)NC(CCC1=CC=C(OCC(=O)OCC)C=C1)C=1C=NC=CC1 | C19H22N2O4
reactant | sulfuric acid | 0.15 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | ethyl 4-[3-amino-3-(3-pyridyl)propyl]phenoxyacetate | 50 mg | NC(CCC1=CC=C(OCC(=O)OCC)C=C1)C=1C=NC=CC1 | C18H22N2O3
